US03953398
3.5-di tert.butyl-4-hydroxycinnamamide was prepared by heating a mixture of 23.4 grams of 3,5-di tert.butyl-4-hydroxybenzaldehyde, 31 grams of malonic acid monoamide, 75 milliliters of pyridine, and 3 milliliters of piperidine at 90° to 100° C. for 101/2 hours. The reaction mixture was poured into a solution of 75 milliliters of concentrated hydrochloric acid and 100 milliliters of water. The solid which precipitated was filtered off, dried, and recrystallized from benzene. Ten grams of product was obtained which melted at 217° to 219° C.

reactant | 3,5-di tert.butyl-4-hydroxybenzaldehyde | 23.4 grams | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | malonic acid monoamide | 31 grams | C(CC(=O)O)(=O)N | C3H5NO3
reactant | piperidine | 3 milliliters | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 75 milliliters | Cl | ClH
solvent | water | 100 milliliters | O | H2O
solvent | pyridine | 75 milliliters | N1=CC=CC=C1 | C5H5N
product | 3.5-di tert.butyl-4-hydroxycinnamamide | C(C)(C)(C)C=1C=C(C=CC(=O)N)C=C(C1O)C(C)(C)C | C17H25NO2
